US07858646B2
Synthesis of 5-(3-((4-acetyl-2-ethyl-3-hydroxyphenoxy)methyl)phenylthio)nicotinonitrile
Using the method of Preparation 160 using 5-(3-(hydroxymethyl)phenylthio) nicotinonitrile (3.90 g, 16.1 mmol) and 1-(3-ethyl-2,4-dihydroxyphenyl)ethanone (2.90 g, 16.1 mmol) affords the title compound (2.20 g, 34%): 1H NMR (CDCl3) δ 1.10 (t, J=7.4 Hz, 3H), 2.57 (s, 3H), 2.71 (q, J=7.4 Hz, 2H), 5.18 (s, 2H), 6.43 (d, J=9.0 Hz, 1H), 7.44-7.49 (m, 3H), 7.51 (s, 1H), 7.59 (d, J=9.0 Hz, 1H), 7.63 (dd, J=2.0, 2.3 Hz, 1H), 8.64 (t, J=2.0 Hz, 2H), 12.75 (s, 1H).

reactant | 5-(3-(hydroxymethyl)phenylthio) nicotinonitrile | 16.1 mmol, 3.90 g | OCC=1C=C(C=CC1)SC=1C=NC=C(C#N)C1 | C13H10N2OS
reactant | 1-(3-ethyl-2,4-dihydroxyphenyl)ethanone | 16.1 mmol, 2.90 g | C(C)C=1C(=C(C=CC1O)C(C)=O)O | C10H12O3
product | 5-(3-((4-acetyl-2-ethyl-3-hydroxyphenoxy)methyl)phenylthio)nicotinonitrile | 2.20 g, 34% | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)SC=2C=NC=C(C#N)C2)C=C1)CC)O | C23H20N2O3S
